US08629271B2
a) 2-(2,6-Difluorophenyl)ethanol
A solution of borane dimethyl sulfide complex (2M in THF, 26 mL) was added cautiously to a solution of 2-(2,6-difluorophenyl)acetic acid (3 g) in THF (50 mL) at 0° C. The reaction was then allowed to warm to RT and stirred for 3 h. The reaction was cooled in an ice bath and cautiously quenched with methanol (10 mL). The solvent was evaporated and the residue purified by silica gel chromatography eluting with 9:1 to 4:1 isohexane:ethyl acetate gradient. The fractions containing product were combined and evaporated to give the subtitled compound as a clear oil. Yield 2.2 g.

reactant | borane dimethyl sulfide | 2M, 26 mL | CSC.B
reactant | 2-(2,6-difluorophenyl)acetic acid | 3 g | FC1=C(C(=CC=C1)F)CC(=O)O | C8H6F2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(2,6-Difluorophenyl)ethanol | FC1=C(C(=CC=C1)F)CCO | C8H8F2O
